US07125896B2
b) 5-Bromo-2-(2,2-difluoroethoxy)pyridine
2,2-Difluoroethanol (0.40 ml) was added dropwise to a suspension of sodium hydride (0.270 g) in dimethylformamide (5 ml) cooled in an ice-bath under argon. The mixture was stirred at room temperature for 40 minutes, then re-cooled in an ice-bath. A solution of 2,5-dibromopyridine (1 g) in dimethylformamide (5 ml) was added. The solution was then heated at 65° C. under argon for 18 h, allowed to cool and diluted with water (50 ml). The aqueous phase was extracted three times with ethyl acetate. The combined extracts were washed with water, brine, dried over magnesium sulphate, filtered and evaporated. The product was purified by column chromatography eluting with hexane to give a colourless oil (0.946 g).

reactant | 2,2-Difluoroethanol | 0.40 ml | FC(CO)F | C2H4F2O
reactant | sodium hydride | 0.270 g | [H-].[Na+]
reactant | 2,5-dibromopyridine | 1 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | 5-Bromo-2-(2,2-difluoroethoxy)pyridine | 0.946 g | BrC=1C=CC(=NC1)OCC(F)F | C7H6BrF2NO
